US04334010
3 parts of 2-(2-tetrahydrothienyl)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one was added to 9.9 parts of oxalic chloride, the mixture was stirred at room temperature for 1.5 hours and concentrated at a temperature below 50° C. The residue was dissolved in 40 parts by volume of benzene and 1.0 part of pyrolidine was added thereto. After stirring at room temperature for 1 hour, the mixture was washed with water, a saturated aqueous sodium hydrogen carbonate solution, and a saturated aqueous sodium chloride solution, in the order listed, and then dried. Benzene was distilled off and the residue was passed through a column containing silica gel using a solvent mixture of chloroform and benzene (2:1) as a spreading agent to obtain 1.1 parts of 3-chloro-2-(2-tetrahydrothienyl)-5,5-dimethyl-2-cyclohexen-1-one as a brown colored oily product.

reactant | 2-(2-tetrahydrothienyl)-3-hydroxy-5,5-dimethyl-2-cyclohexen-1-one | S1C(CCC1)C=1C(CC(CC1O)(C)C)=O | C12H18O2S
reactant | oxalic chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
product | 3-chloro-2-(2-tetrahydrothienyl)-5,5-dimethyl-2-cyclohexen-1-one | ClC1=C(C(CC(C1)(C)C)=O)C1SCCC1 | C12H17ClOS
